US08003647B2
4-(6-Chloro-3-cyano-5-hydroxyindol-1-yl)benzoic acid ethyl ester
To a solution of 4-(5-benzyloxy-6-chloro-3-cyanoindol-1-yl)benzoic acid ethyl ester (0.310 g) in dichloromethane (7 mL) was added boron tribromide (1 mol/L dichloromethane solution) (0.860 mL) under ice cooling, and this mixture was stirred at the same temperature for 1 hour. To this reaction mixture was added water, this mixture was extracted with ethyl acetate. This organic layer was washed with brine, dried over anhydrous magnesium sulfate and filtered. This filtrate was removed under reduced pressure. The residue was washed with diethyl ether to give the title compound (0.181 g).

reactant | 4-(5-benzyloxy-6-chloro-3-cyanoindol-1-yl)benzoic acid ethyl ester | 0.310 g | C(C)OC(C1=CC=C(C=C1)N1C=C(C2=CC(=C(C=C12)Cl)OCC1=CC=CC=C1)C#N)=O | C25H19ClN2O3
reactant | boron tribromide | 1 mol/L, 0.860 mL | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | 4-(6-Chloro-3-cyano-5-hydroxyindol-1-yl)benzoic acid ethyl ester | 0.181 g | C(C)OC(C1=CC=C(C=C1)N1C=C(C2=CC(=C(C=C12)Cl)O)C#N)=O | C18H13ClN2O3
